US06677349B1
Using the general method of Example 266 except that 1-methyl-2-pyrrolidinone was used in place of dichloromethane, 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (5.0 g, 16.0 mmol) was reacted with 3-chloropropanesulfonyl choride (2.83 g, 16.0 mmol) to provide 0.75 g of 2-butyl-1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, m.p. 173.0-176.0° C.

reactant | 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 16.0 mmol, 5.0 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C18H25N5
reactant | 3-chloropropanesulfonyl choride | 16.0 mmol, 2.83 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 2-butyl-1-[4-(1,1-dioxidoisothiazolidin-2-yl)butyl]-1H-imidazo[4,5-c]quinolin-4-amine | 0.75 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCCN1S(CCC1)(=O)=O | C21H29N5O2S
